US07981883B2
A mixture of 3-phenyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester (190 mg, 0.67 mmol) in MeOH (5 ml) and lithium hydroxide monohydrate (74 mg, 1.0 mmol) in H2O (1 ml) was stirred overnight at RT. After removal of the solvent under vacuum, the residue was taken up in 10% aq. citric acid solution and EtOAc and the phases were separated. The aqueous phase was extracted several times with EtOAc, dried over magnesium sulphate and desolventised under vacuum. 150 g (87% of the theoretical amount) of the free acid 3-phenyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid was obtained in the form of a colourless solid.

reactant | 3-phenyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester | 0.67 mmol, 190 mg | C(C)OC(=O)C1CCC2(CC(=NO2)C2=CC=CC=C2)CC1 | C17H21NO3
reactant | lithium hydroxide monohydrate | 1.0 mmol, 74 mg | O.[OH-].[Li+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | H2O | 1 ml | O | H2O
product | 3-phenyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid | C1(=CC=CC=C1)C1=NOC2(C1)CCC(CC2)C(=O)O | C15H17NO3
